US07767675B2
Step 1. 6-[(2,2-dimethoxyethyl)thio]quinoline
To a solution of 6-bromoquinoline (0.832 g, 4.0 mmol) in N,N-dimethylacetamide (4.0 mL) was added sodium methyl mercaptide (0.841 g, 12.0 mmol). The reaction mixture was heated at 150° C. for 2 h. After cooling, 2-bromo-1,1-dimethoxyethane (1.41 mL, 12.0 mol) was then added, and the reaction mixture was diluted with ethanol (5 mL), and heated at 80° C. for 1 h. After the precipitated salt was isolated by filtration, the mother liquor was evaporated under reduced pressure. The residue was diluted with diethyl ether (50 mL), washed with water, brine, dried over sodium sulfate, filtered, and concentrated. The residue was directly used in the next reaction step without further purification. LCMS: (M+H)=249.9.

reactant | 6-bromoquinoline | 4.0 mmol, 0.832 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | sodium methyl mercaptide | 12.0 mmol, 0.841 g | C[S-].[Na+]
reactant | 2-bromo-1,1-dimethoxyethane | 12.0 mol, 1.41 mL | BrCC(OC)OC | C4H9BrO2
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-[(2,2-dimethoxyethyl)thio]quinoline | COC(CSC=1C=C2C=CC=NC2=CC1)OC | C13H15NO2S
